US07989430B2
2′,3-O-Isopropylidene-5′-O-(sulfamoyl)aristeromycin. This was prepared from 2′,3′-O-isopropylidenearisteromycin (290 mg, 0.95 mmol, 1.0 equiv) using the general procedure for sulfamoylation. Purification by flash chromatography (4:1 EtOAc/MeOH) afforded the title compound as a thick oil (230 mg, 63%): Rf 0.70 (3:1 EtOAc/MeOH); [α]20D −6.6 (c 1.8, CH3OH); 1H NMR (600 MHz, CD3OD) δ 1.29 (s, 3H), 1.54 (s, 3H), 2.37 (q, J=12.0 Hz, 1H), 2.46-2.54 (m, 1H), 2.54-2.64 (m, 1H), 4.24 (dd, J=16.2, 6.6 Hz, 1H), 4.28 (dd, J=16.2, 6.6 Hz, 1H), 4.70 (t, J=6.0 Hz, 1H), 4.88-4.96 (m, 1H), 5.09 (t, J=6.6 Hz, 1H), 8.19 (s, 1H), 8.21 (s, 1H); 13C NMR (150 MHz, CDCl3) δ 25.4, 27.7, 34.9, 44.5, 62.6, 71.1, 82.2, 84.8, 115.3, 120.6, 141.6, 150.7, 153.6, 157.4. b. N-Hydroxysuccinimidyl 2-(methoxymethoxy)benzoate. A solution of LiOH (660 mg, 27.5 mmol, 3.0 equiv) in MeOH (18 mL) and water (2 mL) was added to methyl 2-(methoxymethoxy)benzoate (1.81 g, 9.17 mmol, 1.0 equiv) and the reaction mixture was refluxed for 4 hours. The reaction mixture was concentrated and the residue was dissolved in H2O (20 mL) and the pH was adjusted to 3 then extracted with EtOAc (3×50 mL). The combined organic extracts were concentrated to afford 2-(methoxymethoxy)benzoic acid (1.56 g, 93%) which was directly carried onto the next step: 1H NMR (600 MHz, CDCl3) δ 3.54 (s, 3H), 5.34 (s, 2H), 7.15 (t, J=7.8 Hz, 1H), 7.26 (d, J=8.4 Hz, 1H), 7.51 (t, J=9.0 Hz, 1H), 8.14 (d, J=7.8 Hz, 1H); 13C NMR (150 MHz, CDCl3) δ 57.0, 95.8, 115.1, 118.4, 122.9, 133.5, 134.9, 156.2, 166.0.

reactant | EtOAc MeOH | CCOC(=O)C.CO
reactant | LiOH | 27.5 mmol, 660 mg, 3.0 equiv | [Li+].[OH-]
reactant | methyl 2-(methoxymethoxy)benzoate | 9.17 mmol, 1.81 g, 1.0 equiv | COCOC1=C(C(=O)OC)C=CC=C1 | C10H12O4
solvent | MeOH | 18 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 2-(methoxymethoxy)benzoic acid | 1.56 g, 93% | COCOC1=C(C(=O)O)C=CC=C1 | C9H10O4
